US04892875
A mixture of o-nitrobenzaldehyde, 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate and methyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 and the product was further treated with methanolic hydrogen chloride to give 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate dihydrochloride monohydrate as light yellow crystals, m.p. 162°-164° C. Yield 11.4%.

reactant | o-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate dihydrochloride monohydrate | Yield 11.4% | O.Cl.Cl.CC=1NC(=C(C(C1C(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C | InChI=1S/C35H38N4O6.2ClH.H2O/c1-24-30(34(40)44-3)32(28-16-10-11-17-29(28)39(42)43)31(25(2)36-24)35(41)45-23-22-37-18-20-38(21-19-37)33(26-12-6-4-7-13-26)27-14-8-5-9-15-27;;;/h4-17,32-33,36H,18-23H2,1-3H3;2*1H;1H2
